US07572809B2
Similar procedure as described in example 131 was used, starting from (1-chloro-isoquinolin-3-yl)-(1H-pyrazol-3-yl)-amine and 1-methyl-4-(4,4,5,5-tetramethyl-[1,3,2]dioxaborolan-2-yl)-1H-pyrazole to give [1-(1-methyl-1H-pyrazol-4-yl)-isoquinolin-3-yl]-(1H-pyrazol-3-yl)-amine. LC-MS m/e 291(MH+).

reactant | (1-chloro-isoquinolin-3-yl)-(1H-pyrazol-3-yl)-amine | ClC1=NC(=CC2=CC=CC=C12)NC1=NNC=C1 | C12H9ClN4
reactant | 1-methyl-4-(4,4,5,5-tetramethyl-[1,3,2]dioxaborolan-2-yl)-1H-pyrazole | CN1N=CC(=C1)B1OC(C(O1)(C)C)(C)C | C10H17BN2O2
product | [1-(1-methyl-1H-pyrazol-4-yl)-isoquinolin-3-yl]-(1H-pyrazol-3-yl)-amine | CN1N=CC(=C1)C1=NC(=CC2=CC=CC=C12)NC1=NNC=C1 | C16H14N6
